### PR TITLE
Implement iff versions of equiv's

### PR DESCRIPTION
**Pull request by jarlg**
Addresses the last two comments on the original PR. Adding some comments in the code.

### CODE REVIEW

File: theories/Modalities/ReflectiveSubuniverse.v [hunk 1]
```diff
@@ -89,6 +81,13 @@ Global Existing Instance inO_hfiber_ino_map.
 Section Subuniverse.
   Context (O : Subuniverse).
 
+  (** Being a local map is an hprop *)
```
Comment (jarlg) [inline theories/Modalities/ReflectiveSubuniverse.v:84]: Just moved this up, needed for `equiv_iff_hprop_uncurried` below when deducing equivalence from iff for hprops.

File: theories/Truncations/Core.v [hunk 2]
```diff
@@ -192,12 +192,30 @@ Proof.
...
+  : (forall x, merely (P x)) <-> IsSurjection (pr1 : {x : X & P x} -> X).
+Proof.
+  apply iff_functor_forall; intro a.
+  split.
+  - intro mPa.
+    rapply contr_inhabited_hprop.
+    revert mPa; apply Trunc_rec; intro Pa. (* strip merely *)
+    exact (tr ((a; Pa); idpath)).
+  - intros [z _].
+    revert z; apply Trunc_rec; intros [[x Px] p]. (* strip merely *)
```
Comment (jarlg) [inline theories/Truncations/Core.v:205]: Couldn't find a nicer way to "strip merely", but I think it's short and clear enough to not warrant its own tactic.

File: theories/Truncations/Core.v [hunk 3]
```diff
@@ -192,12 +192,30 @@ Proof.
...
+(** Under Funext the two sides of iff_merely_issurjection are hprops, giving us an equivalence. *)
 Lemma equiv_merely_issurjection `{Funext} {X : Type} (P : X -> Type)
   : (forall x, merely (P x)) <~> IsSurjection (pr1 : {x : X & P x} -> X).
 Proof.
-  refine (equiv_forall_inO_mapinO_pr1 (Conn _) _ oE _).
-  apply equiv_functor_forall_id; intro x.
-  exact (equiv_contr_hprop _)^-1%equiv.
+  apply equiv_iff_hprop_uncurried.
+  apply iff_merely_issurjection.
+  (* Alternative proof:
```
Comment (jarlg) [inline theories/Truncations/Core.v:215]: Included the previous proof as example usage of `equiv_forall_inO_mapinO_pr1` and `Conn`, but could also be removed if you think it should.

Note that these results in `Truncations/Core.v` are now independent of the general ones in `Modalities/ReflectiveSubuniverse.v`. You can (probably) deduce `iff_merely_issurjection` from `iff_forall_inO_mapinO_pr1`, but it doesn't look that much shorter to me.

File: theories/Truncations/Core.v [hunk 4]
```diff
@@ -192,12 +192,30 @@ Proof.
...
+     refine (equiv_forall_inO_mapinO_pr1 (Conn _) _ oE _).
+     apply equiv_functor_forall_id; intro x.
+     exact (equiv_contr_hprop _)^-1%equiv. *)
```
Comment (jarlg) [inline theories/Truncations/Core.v:218]: This was the only place your lemma `equiv_contr_hprop` was used, so if we delete this alternative proof then that lemma could go as well.
